US04684727
Preparation of 1-(1,2-dihydro-4-hydroxy-1-phenyl-2-oxo-1,8-naphthyridin-3-yl)-1-methyl-pyrrolidinium hydroxide, inner salt
In dry pyridine (30 mL), 3-bromo-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one (10 g) was suspended. N-methyl pyrrolidine (20 mL) was added to the suspension. The mixture was heated to 95°-100° C. with stirring, and was kept there for about 33 hours. The product was evaporated under high vacuum to provide a dark oil. This oil was slurried with 200 mL of CH3CN(40): H2O(60): CH3CO2H(1) and filtered. The solid residue on the filter was rinsed with water and the filtrate was evaporated to remove most of the CH3CN. Reversed phase chromatography through an E. Merck RP-8 LoBar column, eluting with increasing concentrations of CH3CN in H2O (containing 1% CH3CO2H) gave a moderately pure product which was subjected to a second chromatographic separation using the same conditions as above. Fractions containing the product were combined and evaporated to yield a solid which was recrystallized from CH2Cl2 /isopropanol to yield the desired product, m.p. 245°-250° C.

reactant | 3-bromo-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | 10 g | BrC=1C(N(C2=NC=CC=C2C1O)C1=CC=CC=C1)=O | C14H9BrN2O2
reactant | N-methyl pyrrolidine | 20 mL | CN1CCCC1 | C5H11N
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 1-(1,2-dihydro-4-hydroxy-1-phenyl-2-oxo-1,8-naphthyridin-3-yl)-1-methyl-pyrrolidinium hydroxide | [OH-].OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)[N+]1(CCCC1)C | InChI=1S/C19H19N3O2.H2O/c1-22(12-5-6-13-22)16-17(23)15-10-7-11-20-18(15)21(19(16)24)14-8-3-2-4-9-14;/h2-4,7-11H,5-6,12-13H2,1H3;1H2
